US07226644B2
Under nitrogen replacement, 1.23 g of sodium hydride (60% in oil) was suspended in 18 ml of DMF. Into this, the THF (36 mL) solution containing 9 g of 5-(3-hydroxy-1-hexyl)-2,3,4-trifluoro-1-[trans-4-(trans-4-propylcyclohexyl)cyclohexyl]benzene was added dropwise for 30 minutes, and stirred for 3 hours at 40° C. and then for 3 hours at 50° C. After toluene was added and stirred for a while, an organic layer was separated and an aqueous layer was extracted with toluene. After the extract and the organic layer were mixed together, washed using water and a saturated saline solution in that order, and dried using anhydrous sodium sulfate, the solvent was evaporated under a reduced pressure. The residue was purified by carrying out column chromatography (silica gel, hexane), recrystallization (hexane), recrystallization (hexane/ethanol) to obtain 2.5 g of 7,8-difluoro-6-[trans-4-(trans-4-propylcyclohexyl)cyclohexyl]-2-propylchroman as colorless needlelike crystals.

reactant | sodium hydride | 1.23 g | [H-].[Na+]
reactant | THF | 36 mL | C1CCOC1 | C4H8O
reactant | 5-(3-hydroxy-1-hexyl)-2,3,4-trifluoro-1-[trans-4-(trans-4-propylcyclohexyl)cyclohexyl]benzene | 9 g | OC(CCC=1C(=C(C(=C(C1)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC)F)F)F)CCC | C27H41F3O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 18 ml | CN(C)C=O | C3H7NO
product | 7,8-difluoro-6-[trans-4-(trans-4-propylcyclohexyl)cyclohexyl]-2-propylchroman | 2.5 g | FC1=C(C=C2CCC(OC2=C1F)CCC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC | C27H40F2O
